US05977105
(±)-1-(3,4-Dimethoxyphenoxy)-4-(3-pyridyl)-2-butanol
Prepared according to the method described in Example 24b) from 3,4-dimethoxyphenol (0.77 g), (±)-α-(chloromethyl)-3-pyridinepropanol (1.0 g) and sodium hydroxide (0.2 g) in ethanol (45 ml) and water (5 ml) with heating at reflux for 1 hour. After work up the residue was purified by column chromatography over silica eluting with hexane:acetone (2:1) to give the title compound as a colourless oil (0.10 g).

reactant | 3,4-dimethoxyphenol | 0.77 g | COC=1C=C(C=CC1OC)O | C8H10O3
reactant | (±)-α-(chloromethyl)-3-pyridinepropanol | 1.0 g | ClCC(CCC=1C=NC=CC1)O | C9H12ClNO
reactant | sodium hydroxide | 0.2 g | [OH-].[Na+]
solvent | ethanol | 45 ml | C(C)O | C2H6O
solvent | water | 5 ml | O | H2O
product | (±)-1-(3,4-Dimethoxyphenoxy)-4-(3-pyridyl)-2-butanol | 0.10 g | COC=1C=C(OCC(CCC=2C=NC=CC2)O)C=CC1OC | C17H21NO4
